US05962529
N4 -Hydroxycarbamoylmethyl-2,N4 -diisobutyl-N1,N1 -dimethyl-succinamide
N4 -(Benzyloxycarbamoyl-methyl)-2,N4 -diisobutyl-N1,N1 -dimethyl-succinamide (0.45 g, 0.0011 mol) was dissolved in ethanol (5.0 ml) and 10% palladium on charcoal (100 mg) was added. Hydrogen was bubbled through the mixture for 1 hour at room temperature. The catalyst was removed by filtration and the solvent was removed under reduced pressure to give a crude solid contaminated with charcoal. The solid was then purified by column chromatography (acid-washed silica gel, 5% methanol in dichloromethane) to give the title compound as a white foamy solid (340 mg, 96%). 1H-NMR; δ (CDCl3, 3:1 mixture of rotamers), 11.65 (0.25H, s), 10.15 (0.75H, s), 7.89 (1H, br s), 4.59 (0.75H, d, J=16.4 Hz), 4.33 (0.25H, d, J=17.8 Hz), 3.90 (0.25H, d, J=17.8 Hz), 3.66 (1H, m), 3.56 (0.75H, d, J=16.5 Hz), 3.40 (1.5H, m), 3.13 (0.75H, s), 3.11 (2.25H, s), 2.95 (2.25H, s), 2.93 (0.75H, s), 2.92 (0.5H, m), 2.79 (0.75H, m), 2.67 (0.25H, m), 2.35 (0.25H, m), 2.23 (0.75H, dd, J=4.6 Hz, 14.6 Hz), 1.92 (1H, m), 1.62 (1H, m), 1.39 (2H, m), 1.02-0.78 (12H, br m); 13C-NMR; δ (CDCl3), 176.6, 176.5, 173.9, 172.5, 165.8, 56.7, 54.0, 50.0, 48.6, 40.9, 37.4, 37.3, 36.5, 35.9, 35.8, 35.0, 34.3, 31.4, 28.1, 26.6, 25.3, 23.4, 23.3, 22.4, 21.5, 21.3, 19.8 and 13.8. Found C 56.95, H 9.35, N 12.34%; C16H31N3O4.0.5H2O requires C 56.78%, H 9.53%, N 12.42%.

reactant | N4 -(Benzyloxycarbamoyl-methyl)-2,N4 -diisobutyl-N1,N1 -dimethyl-succinamide | 0.0011 mol, 0.45 g | C(C1=CC=CC=C1)ONC(=O)CN(C(CC(C(=O)N(C)C)CC(C)C)=O)CC(C)C | C23H37N3O4
reactant | charcoal | C | CH4
solvent | ethanol | 5.0 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 100 mg | [Pd] | Pd
product | N4 -Hydroxycarbamoylmethyl-2,N4 -diisobutyl-N1,N1 -dimethyl-succinamide | 340 mg, 96% | ONC(=O)CN(C(CC(C(=O)N(C)C)CC(C)C)=O)CC(C)C | C16H31N3O4
